US09120777B2
D) Methyl 4,5-dicyclopropyl-2-isopropoxybenzoate
Cyclopropylboronic acid (2.83 g), a 2 M aqueous sodium carbonate solution (33 mL), tris(dibenzylideneacetone)dipalladium(0) (1.41 g), and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.36 g) were added at room temperature to a toluene (100 mL) solution of methyl 5-bromo-4-cyclopropyl-2-isopropoxybenzoate (6.89 g), and the mixture was stirred at 100 C for 15 hours in an argon atmosphere. Water was added to the reaction mixture at room temperature. The mixture was filtered through celite, and then, the filtrate was subjected to extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (5.90 g)

reactant | Cyclopropylboronic acid | 2.83 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 2 M, 33 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.36 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | methyl 5-bromo-4-cyclopropyl-2-isopropoxybenzoate | 6.89 g | BrC=1C(=CC(=C(C(=O)OC)C1)OC(C)C)C1CC1 | C14H17BrO3
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.41 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4,5-dicyclopropyl-2-isopropoxybenzoate | 5.90 g | C1(CC1)C1=CC(=C(C(=O)OC)C=C1C1CC1)OC(C)C | C17H22O3
